US04278677
5.18 g of silver oxide and then 20 ml of pentyl iodide were added to a solution of 10 g of 3-(1,2,3,6-tetrahydropyridin-4yl)-1H-indole in 100 ml of acetone and after stirring the mixture for 4 hours at room temperature, another 2.5 ml of pentyl iodide were added thereto. The mixture was stirred for one hour and was filtered and the filter was rinsed with a 1-1 methylene chloride-methanol mixture. The filtrate was evaporated to dryness under reduced pressure at 40° C. and the residue was chromatographed over silica gel. Elution was effected with a 7-2-1 chloroform-methanol-triethylamine mixture and the residue from evaporation of the solvents was extracted with 250 ml of refluxing ethanol. The organic extract was filtered and crystallization of the filtrate was effected at 0° to 5° C. to obtain 7.9 g of 3-(1-pentyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole melting at about 180° C.

reactant | pentyl iodide | 20 ml | C(CCCC)I | C5H11I
reactant | 3-(1,2,3,6-tetrahydropyridin-4yl)-1H-indole | 10 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | pentyl iodide | 2.5 ml | C(CCCC)I | C5H11I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | silver oxide | 5.18 g | [Ag]=O
product | 3-(1-pentyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 7.9 g | C(CCCC)N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C18H24N2
